US05604004
Synthesis of ligand intermediate (4-isopropylbenzaldehyde-2-pyridylhydrazone)
In 20 ml of ethanol was dissolved 5.46 g of 2-hydrazinopyridine. With 7.41 g of 4-isopropylbenzaldehyde added, the solution was agitated. Fine crystals started precipitating within about 30 seconds and the entire solution solidified within about 1 minute. 10 ml of ethanol was added to the mass, which was refluxed at 100° C. for 40 minutes. The reaction solution was allowed to cool at room temperature and further cooled down to 5° to 10° C. to cause crystals to fully precipitate, which were collected by suction filtration. The crystals were washed with ethanol and dried in vacuum for 40 minutes, obtaining 9.09 g (yield 76%) of pale yellow acicular crystals.

reactant | 2-hydrazinopyridine | 5.46 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | 4-isopropylbenzaldehyde | 7.41 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-isopropylbenzaldehyde-2-pyridylhydrazone | 9.09 g, yield 76% | N1=C(C=CC=C1)NN=CC1=CC=C(C=C1)C(C)C | C15H17N3
